* source KCBASEBOARD
C_C1         N00282 N00190  470n  TC=0,0 
C_C2         0 N00204  0.1n  TC=0,0 
R_R1         0 N00190  270k TC=0,0 
R_R2         N00190 N00204  402 TC=0,0 
V_V1         N00282 0 DC 0Vdc AC 1Vac 
R_R3         N00204 N00952  10 TC=0,0 
R_R4         0 N00952  500k TC=0,0 
