* source INPUTSTAGESIM
R_R27         N14545 0  10k TC=0,0 
R_R26         N14549 N14689  10 TC=0,0 
Q_Q18         N14545 N14559 N14579 Q2SC1815
R_R24         N17878 N14667  1000 TC=0,0 
V_V7         0 N14579 DC 25v  
Q_Q17         N14549 N14545 N14559 Q2SC1815
V_V10         N14667 0 DC 25v  
R_R23         N17860 N14667  1000 TC=0,0 
R_R25         N14549 N15237  10 TC=0,0 
R_R28         N14559 N14579  150 TC=0,0 
X_U3         N18401 N15040 N15237 N14689 0 N14763 MAT02 
R_R29         N17874 N17878  30 TC=0,0 
C_C1         N17860 N17874  2.2n  TC=0,0 
Q_Q19         N17878 N17878 N17860 Q2N6520
V_V11         N15040 0  
+SIN 0 0.001 1k 0 0 0
J_J1         N17860 N18446 N18401 J2N4391 
J_J2         N17878 N18463 N14763 J2N4391 
R_R30         N15237 N18446  60 TC=0,0 
R_R31         N14689 N18463  60 TC=0,0 
C_C4         N17878 N27744  1n  TC=0,0 
R_R19         N27222 N26952  100 TC=0,0 
I_I4         N26956 0 DC 0.001Adc  
R_R14         N27138 N27142  200 TC=0,0 
R_R18         N27374 N27222  10 TC=0,0 
V_V4         N26952 0 DC 25v  
C_C5         N27392 N27776  100p  TC=0,0 
D_D1         0 N27292 D1N4154_1 
Q_Q15         N27292 N26986 N27380 Q2SA921
Q_Q14         N27098 N27302 N27292 Q2SA1015
R_R35         N27776 N17860  45 TC=0,0 
Q_Q16         N27392 N26956 N27374 Q2SA921
R_R34         N27744 N26952  45 TC=0,0 
I_I3         N26986 0 DC 0.001Adc  
Q_Q12         N27292 N27098 N27142 Q2SC3429 
V_V5         0 N27138 DC 25v  
Q_Q10         N26952 N17878 N26986 Q2SC1815
R_R16         N27098 N27142  2k TC=0,0 
R_R17         N27380 N27222  10 TC=0,0 
R_R20         N27302 0  2k TC=0,0 
Q_Q13         N27392 N27098 N27132 Q2SC3429 
R_R15         N27138 N27132  200 TC=0,0 
Q_Q11         N26952 N17860 N26956 Q2SC1815
