* source KC_NO_NFB_SIM
R_R28         N17643 N17663  {R28} TC=0,0 
R_R25         N17633 N17931  {R26} TC=0,0 
X_U3         N25024 IN N17931 N17751 N37427 N17779 MAT02 
R_R24         N19508 N17733  {R24} TC=0,0 
R_R23         N22875 N17733  {R24} TC=0,0 
R_R26         N17633 N17751  {R26} TC=0,0 
R_R27         N17629 0  10k TC=0,0 
Q_Q17         N17633 N17629 N17643 Q2SC1815
Q_Q18         N17629 N17643 N17663 Q2SC1815
Q_Q10         N17733 N19508 N18912 Q2SC1815
R_R15         N17663 N19086  200 TC=0,0 
D_D1         0 N19210 D1N4154_1 
R_R17         N19318 N19166  {R17} TC=0,0 
Q_Q11         N17733 N22875 N18906 Q2SC1815
R_R16         N19018 N19072  2k TC=0,0 
Q_Q12         N19210 N19018 N19072 Q2SC3429 
I_I3         N18912 0 DC 0.001Adc  
R_R18         N19324 N19166  {R17} TC=0,0 
I_I4         N18906 0 DC 0.001Adc  
R_R20         N19238 0  2k TC=0,0 
R_R21         N22891 N31818  45.3 TC=0,0 
Q_Q14         N19018 N19238 N19210 Q2SA1015
R_R19         N19166 N17733  {R19} TC=0,0 
Q_Q13         N22891 N19018 N19086 Q2SC3429 
R_R14         N17663 N19072  200 TC=0,0 
R_R32         N23012 N17733  45 TC=0,0 
R_R33         N22887 N22875  45 TC=0,0 
C_C3         N22891 N22887  {C3}  TC=0,0 
C_C4         N19508 N23012  1n  TC=0,0 
J_J1         N22875 N25113 N25024 J2N4391 
J_J2         N19508 N25106 N17779 J2N4391 
R_R34         N17751 N25106  60 TC=0,0 
R_R35         N17931 N25113  60 TC=0,0 
Q_Q19         N19210 N18912 N19318 Q2SA970
Q_Q20         N22891 N18906 N19324 Q2SA970
C_C6         N22875 N26817  2.2n  TC=0,0 
R_R36         N26817 N19508  30 TC=0,0 
Q_Q21         N19508 N19508 N22875 Q2N6520
V_V4         N17733 0 DC 25  
V_V5         0 N17663 DC 25  
R_R37         0 N32598  15k TC=0,0 
R_R1         N31818 N31642  10 TC=0,0 
R_R6         N31586 N31582  51 TC=0,0 
R_R8         N31582 N31596  10 TC=0,0 
R_R7         N31616 N31612  10 TC=0,0 
R_R3         N31632 N31612  51 TC=0,0 
R_R5         N31686 N31538  10 TC=0,0 
R_R10         N31570 OUT  10 TC=0,0 
I_I1         N17733 N31612 DC 0.005Adc  
Q_Q3         N31658 N31642 N31632 MPS8599
R_R2         N31652 N31818  10 TC=0,0 
R_R4         N31658 N31570  10 TC=0,0 
Q_Q1         N17733 N31616 N31538 Q2N5223
Q_Q4         N31686 N31652 N31586 MPS8099
Q_Q2         N31570 N31596 N17663 Q2N5226
C_C1         N31582 N31612  {C1}  TC=0,0 
I_I2         N31582 N17663 DC 0.005Adc  
R_R9         OUT N31538  10 TC=0,0 
C_C7         N32598 N31818  10n  TC=0,0 
V_V6         IN 0 DC 0Vdc AC 0.001Vac 
R_R38         N37427 0  10 TC=0,0 
.PARAM  r17=10 r28=150 c1=10n r19=100 c3=100p r24=1000 r26=10
