* source OUTPUTSTAGESIM
Q_Q1         N00375 N00434 N00382 Q2N5223
Q_Q2         N00390 N00412 N00394 Q2N5226
Q_Q3         N00522 N00455 N00448 MPS8599
Q_Q4         N00547 N00465 N00405 MPS8099
R_R1         IN N00455  10 TC=0,0 
R_R2         N00465 IN  10 TC=0,0 
R_R3         N00448 N00430  51 TC=0,0 
R_R4         N00522 N00390  10 TC=0,0 
R_R5         N00547 N00382  10 TC=0,0 
R_R6         N00405 N00401  51 TC=0,0 
R_R7         N00434 N00430  10 TC=0,0 
R_R8         N00401 N00412  10 TC=0,0 
R_R9         OUT N00382  10 TC=0,0 
R_R10         N00390 OUT  10 TC=0,0 
I_I1         N00375 N00430 DC 0.005Adc  
I_I2         N00401 N00394 DC 0.005Adc  
V_V1         N00375 0 25Vdc
V_V2         0 N00394 25Vdc
V_V3         IN 0 DC 0Vdc AC 0.01Vac 
