* source VOLTAGEAMPSTAGESIM
R_R18         N08620 N08462  10 TC=0,0 
Q_Q12         N08526 N08334 N08368 Q2SC3429 
R_R14         N08378 N08368  200 TC=0,0 
V_V4         N08162 0 DC 25v  
R_R16         N08334 N08368  2k TC=0,0 
V_V9         N08760 0  AC 0
+SIN 20 0.001 1K 0 0 180
Q_Q15         N08526 N08208 N08614 Q2SA921
Q_Q16         N08638 N08202 N08620 Q2SA921
V_V8         N08804 0  AC 0
+SIN 20 0.001 1K 0 0 0
Q_Q11         N08162 N08760 N08202 Q2SC1815
Q_Q10         N08162 N08804 N08208 Q2SC1815
V_V5         0 N08378 DC 25v  
R_R17         N08614 N08462  10 TC=0,0 
R_R20         N08534 0  2k TC=0,0 
Q_Q13         N08638 N08334 N08382 Q2SC3429 
R_R19         N08462 N08162  100 TC=0,0 
Q_Q14         N08334 N08534 N08526 Q2SA1015
I_I4         N08202 0 DC 0.001Adc  
R_R15         N08378 N08382  200 TC=0,0 
I_I3         N08208 0 DC 0.001Adc  
D_D1         0 N08526 D1N4154_1 
C_C2         N08804 N11324  1n  TC=0,0 
C_C3         N08638 N11365  100p  TC=0,0 
R_R23         N11324 N08162  45 TC=0,0 
R_R24         N11365 N08760  45 TC=0,0 
