* source 3STAGEAMP
Q_Q1         N04101 N02394 N04957 Q2SC1815
Q_Q2         N04063 0 N04961 Q2SC1815
V_V1         N00637 0 20Vdc
V_V2         0 N00171 20Vdc
Q_Q3         N05713 N04101 N05352 Q2SA1015
R_R3         0 N05182  100 TC=0,0 
Q_Q5         N04965 N03077 N03145 Q2SC1815
Q_Q6         N05713 N03077 N03326 Q2SC1815
D_D1         N03077 N03073 D1N4148_1 
D_D2         N03073 N00171 D1N4148_1 
R_R4         N03077 0  22k TC=0,0 
R_R5         N00171 N03145  100 TC=0,0 
R_R7         N00171 N03326  100 TC=0,0 
Q_Q8         N04101 N04063 N04059 Q2SA1015
Q_Q9         N04063 N04063 N04067 Q2SA1015
R_R9         N00637 N04059  68 TC=0,0 
R_R10         N00637 N04067  68 TC=0,0 
R_R11         N04965 N04957  10 TC=0,0 
R_R12         N04965 N04961  10 TC=0,0 
R_R13         N05352 N00637  100 TC=0,0 
Q_Q10         N00637 N05713 N05182 MPSA42
Q_Q11         N05182 N03077 N05933 Q2SC1815
R_R14         N00171 N05933  100 TC=0,0 
V_V3         N02394 0 DC 0Vdc AC 0.1mVac 
R_R15         N07571 N07845  100 TC=0,0 
Q_Q12         N08227 N08057 N08221 Q2SA1015
V_V6         N07683 0 DC 0Vdc AC 0.1mVac 
Q_Q16         N08029 N08029 N08033 Q2SA1015
R_R8         N07827 0  22k TC=0,0 
Q_Q13         N08167 N07827 N07845 Q2SC1815
Q_Q4         N08057 N07683 N08135 Q2SC1815
R_R19         N08167 N08135  100 TC=0,0 
Q_Q17         N07627 N08227 N08189 MPSA42
R_R16         N07571 N07917  100 TC=0,0 
D_D3         N07827 N07821 D1N4148_1 
Q_Q14         N08227 N07827 N07917 Q2SC1815
Q_Q15         N08057 N08029 N08023 Q2SA1015
R_R20         N08167 N08161  100 TC=0,0 
R_R22         N07571 N08325  100 TC=0,0 
R_R17         N07627 N08023  68 TC=0,0 
Q_Q7         N08029 N08534 N08161 Q2SC1815
R_R6         0 N08189  100 TC=0,0 
R_R18         N07627 N08033  68 TC=0,0 
R_R21         N08221 N07627  100 TC=0,0 
Q_Q18         N08189 N07827 N08325 Q2SC1815
V_V4         N07627 0 20Vdc
V_V5         0 N07571 20Vdc
D_D4         N07821 N07571 D1N4148_1 
R_R23         N08534 N08189  22K TC=0,0 
R_R24         0 N08534  1k TC=0,0 
Q_Q19         N10107 N09733 N10181 Q2SC1815
R_R27         N09621 N09895  150 TC=0,0 
Q_Q24         N10107 N10079 N10073 Q2SA1015
V_V9         N09733 0 DC 0Vdc AC 0.1mVac 
Q_Q25         N10079 N10079 N10083 Q2SA1015
R_R32         N10213 N10207  100 TC=0,0 
V_V7         N09677 0 20Vdc
R_R35         N10453 N10235  22K TC=0,0 
Q_Q27         N10235 N09877 N10371 Q2SC1815
R_R34         N09621 N10371  100 TC=0,0 
D_D5         N09877 N09871 D1N4148_1 
R_R25         0 N10235  20 TC=0,0 
Q_Q20         N10079 N10453 N10207 Q2SC1815
Q_Q22         N10213 N09877 N09895 Q2SC1815
Q_Q23         N10273 N09877 N09947 Q2SC1815
R_R28         N09621 N09947  100 TC=0,0 
R_R26         N09877 0  22k TC=0,0 
R_R33         N10247 N09677  100 TC=0,0 
D_D6         N09871 N09621 D1N4148_1 
R_R31         N10213 N10181  100 TC=0,0 
R_R29         N09677 N10073  68 TC=0,0 
V_V8         0 N09621 20Vdc
R_R30         N09677 N10083  68 TC=0,0 
R_R36         0 N10453  1K TC=0,0 
Q_Q26         N09677 N10273 N10235 MPSA42
Q_Q21         N10273 N10107 N10247 Q2SA1015
C_C1         N10107 N10273  33p  TC=0,0 
C_C2         N04101 N05713  233p  TC=0,0 
.PARAM  var=33p
