* source SIMPLERC
C_C1         N00326 N00494  100p  TC=0,0 
R_R1         N00494 N00326  1k TC=0,0 
V_V1         N00326 0 DC 0Vdc AC 1Vac 
R_R2         0 N00494  1k TC=0,0 
